US07037916B2
A mixture of 4-chloro-6-cyclohexyloxymethyl-2-methylsulfanyl-pyrimidine, the hydrochloride salt of 2-amino-4-methylpentanoic acid (3-ethoxypropyl)amide (60 mg), and diisopropylethylamine (61 mg) in dimethylsulfoxide (0.5 mL) was heated at 95° C. for 16 h. The mixture was partitioned in water and ethyl acetate. The ethyl acetate layer was dried over sodium sulfate, filtered and evaporated. The residue was purified by column chromatography (30% ethyl acetate in hexanes) to give 2-(6-cyclohexyloxymethyl-2-methylsulfanyl-pyrimidin-4-ylamino)-4-methyl-pentanoic acid (3-ethoxy-propyl)-amide (12 mg).

reactant | 4-chloro-6-cyclohexyloxymethyl-2-methylsulfanyl-pyrimidine | ClC1=NC(=NC(=C1)COC1CCCCC1)SC | C12H17ClN2OS
reactant | 2-amino-4-methylpentanoic acid (3-ethoxypropyl)amide | 60 mg | C(C)OCCCNC(C(CC(C)C)N)=O | C11H24N2O2
reactant | diisopropylethylamine | 61 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
product | 2-(6-cyclohexyloxymethyl-2-methylsulfanyl-pyrimidin-4-ylamino)-4-methyl-pentanoic acid (3-ethoxy-propyl)-amide | 12 mg | C(C)OCCCNC(C(CC(C)C)NC1=NC(=NC(=C1)COC1CCCCC1)SC)=O | C23H40N4O3S
